US07737166B2
6-(1-Ethoxyvinyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-169)
6-Bromo-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-168) (0.80 g, 2.68 mmol) was dissolved in toluene (25 ml), then tributyl(1-ethoxyvinyl)tin (1.30 ml, 3.85 mmol), 2,6-di-tert-butylcresol (12 mg, 0.05 mmol) and bis(triphenylphosphine)palladium(II) dichloride (0.10 g, 0.14 mmol) were added followed by heating under reflux for 3 days. The insoluble matter was removed by filtration through Celite, followed by washing with ethyl acetate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane:hexane=1:2 to 2:3 to 9:1 to dichloromethane:methanol=200:1) to obtain a brown solid (0.51 g, 66%).

reactant | 6-Bromo-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 2.68 mmol, 0.80 g | BrC=1C(=C2C(N=C(O2)N(C)C)=C(C1C)C#N)F | C11H9BrFN3O
reactant | tributyl(1-ethoxyvinyl)tin | 3.85 mmol, 1.30 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.14 mmol, 0.10 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | 2,6-di-tert-butylcresol | 0.05 mmol, 12 mg | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
product | 6-(1-Ethoxyvinyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.51 g, 66% | C(C)OC(=C)C=1C(=C2C(N=C(O2)N(C)C)=C(C1C)C#N)F | C15H16FN3O2
